US06344476B1
To a solution of N-methyl-3-amino-5-tert-butylfuran-2-carboxamide (0.15 g, 0.76 mmol) in anh. toluene (2 mL) at the reflux temp. was slowly added 4-fluorophenyl isocyanate (0.10 g, 0.76 mmol, 1.0 equiv). The resulting solution was allowed to stir at the reflux temp. for 14 h, cooled to room temp., and concentrated under reduced pressure. The residue was purified by flash chromatography (15 g SiO2, gradient from 50% CH2Cl2/hexane to 100% CH2Cl2, then to 20% EtOAc/CH2Cl2) to afford N-(2-methylcarbamoyl-5-tert-butylfuryl)-N′-(4-fluorophenyl)urea (0.16 g, 61%): mp 109-11° C., TLC (30% EtOAc/CH2Cl2) Rf0.21; 1H NMR (CDCl3) δ1.29 (s, 9H), 2.89 (d, J=4.8 Hz, 3H), 6.02 (br q, J=4.8 Hz, 1H), 6.98 (app td, J=16.6, 4.1 Hz, 2H), 7.01 (s, 1H), 7.34-7.39 (m, 2H), 8.05 (br s, 1H), 9.14 (s, 1H); 13C NMR (CDCl3) δ25.5, 28.7 (3C), 33.1, 100.7, 115.6 (d, JC-F=23.2 Hz, 2C), 121.5 (d, JC-F=7.3 Hz, 2C), 128.3, 134.5 (br s), 152.4, 158.9 (d, JC-F=242.9 Hz, 1C), 161.6, 165.8; FAB-LRMS m/z (rel abundance) 334 (M+H, 100%).

reactant | N-methyl-3-amino-5-tert-butylfuran-2-carboxamide | 0.76 mmol, 0.15 g | CNC(=O)C=1OC(=CC1N)C(C)(C)C | C10H16N2O2
reactant | 4-fluorophenyl isocyanate | 0.76 mmol, 0.10 g, 1.0 equiv | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-methylcarbamoyl-5-tert-butylfuryl)-N′-(4-fluorophenyl)urea | 0.16 g, 61% | CNC(=O)C=1OC(=CC1NC(=O)NC1=CC=C(C=C1)F)C(C)(C)C | C17H20FN3O3
